US07655643B2
(5-Bromo-2-chlorophenyl)methanol
10 g (42.5 mmol) of 5-bromo-3-chlorobenzoic acid are dissolved in 135 ml of THF. At 0° C., 4.2 g (55.2 mmol, 5.24 ml) of borane-dimethyl sulfide complex are added dropwise. The mixture is then stirred at RT for 25 min and under reflux for 30 min. 40 ml of water and 15 ml of 2N hydrochloric acid are successively added dropwise while cooling in ice, followed by stirring at RT for 45 min. After a renewed addition of 15 ml of 2N hydrochloric acid the mixture is extracted several times with diethyl ether. The combined organic phase is washed successively with 1N hydrochloric acid, water, a saturated sodium bicarbonate solution and a saturated sodium chloride solution, dried over magnesium sulfate and concentrated in vacuo. The solid is dried under high vacuum to constant weight.

reactant | 5-bromo-3-chlorobenzoic acid | 42.5 mmol, 10 g | BrC=1C=C(C=C(C(=O)O)C1)Cl | C7H4BrClO2
reactant | water | 40 ml | O | H2O
reactant | hydrochloric acid | 2N, 15 ml | Cl | ClH
reactant | hydrochloric acid | 2N, 15 ml | Cl | ClH
solvent | THF | 135 ml | C1CCOC1 | C4H8O
product | (5-Bromo-2-chlorophenyl)methanol | BrC=1C=CC(=C(C1)CO)Cl | C7H6BrClO
